US08022205B2
3-(2-Morpholin-4-yl-7-pyridin-2-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenol (A-29)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 2-aminopyrimidine, 4-(3-methoxy-phenyl)-2-morpholin-4-yl-7-pyridin-2-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 2-aminopyrimidine | NC1=NC=CC=N1 | C4H5N3
reactant | 4-(3-methoxy-phenyl)-2-morpholin-4-yl-7-pyridin-2-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=NC=CC=C2 | C22H23N5O2
product | 3-(2-Morpholin-4-yl-7-pyridin-2-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenol | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=NC=CC=C2)C=2C=C(C=CC2)O | C21H21N5O2
